// Generated for: spectre
// Generated on: Aug  1 14:50:02 2025
// Design library name: Practice
// Design cell name: 6TSRAM
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/buet/cadence/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: Practice
// Cell name: 6TSRAM
// View name: schematic
PM1 (q qb net9 net9) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
PM0 (qb q net9 net9) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
NM4 (qb WL Bit_line_bar 0) gpdk090_nmos1v w=(120n) l=100n as=69.6f \
        ad=69.6f ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
NM5 (Bit_line WL q 0) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
NM1 (q qb 0 0) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f ps=1.16u \
        pd=1.16u m=(1)*(1) simM=(1)*(1)
NM0 (qb q 0 0) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f ps=1.16u \
        pd=1.16u m=(1)*(1) simM=(1)*(1)
V3 (WL 0) vsource type=pulse val0=0 val1=1.8 period=4u
V1 (Bit_line_bar 0) vsource type=pulse val0=1.8 val1=0 period=2u
V2 (Bit_line 0) vsource type=pulse val0=0 val1=1.8V period=2u
V5 (qb 0) vsource dc=1.8 type=dc
V0 (net9 0) vsource dc=1.8 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V5 param=dc start=0 stop=1.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
